US08754079B2
XXXII.1 4,4-difluoro-cyclohexanecarboxylic acid methoxy-methyl-amide
2.78 g HATU were added to a solution of 1 g 4,4-difluoro-cyclohexanecarboxylic acid and 1.3 ml diisopropylethlyamine in 10 ml anhydrous DMF at 0° C. The reaction was stirred at 0° C. for 0.5 hours when 0.891 g O,N-Dimethyl-hydroxylamine hydrochloride were added. The reaction was allowed to warm to rt overnight. The solution was concentrated in vacuo by co-evaporation with toluene (3×) and filtered. The filtrate was concentrated in vacuo. Purification was achieved by silica gel column chromatography (solvent: 5:1→3:1 petroleum ether/EtOAc).

reactant | HATU | 2.78 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4,4-difluoro-cyclohexanecarboxylic acid | 1 g | FC1(CCC(CC1)C(=O)O)F | C7H10F2O2
reactant | diisopropylethlyamine | 1.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O,N-Dimethyl-hydroxylamine hydrochloride | 0.891 g | Cl.CONC
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4,4-difluoro-cyclohexanecarboxylic acid methoxy-methyl-amide | CON(C(=O)C1CCC(CC1)(F)F)C | C9H15F2NO2
